US07858640B2
[4-difluoromethoxy-3-(4-ethanesulfonylbenzyl)-2-ethyl-8-fluoroquinolin-5-yloxy]acetic Acid
A mixture of [4-difluoromethoxy-3-(4-ethanesulfonylbenzyl)-2-ethyl-8-fluoroquinolin-5-yloxy]acetic acid methyl ester (0.080 g), methanol (2.0 mL), tetrahydrofuran (2.0 mL), water (2.0 mL) and lithium hydroxide (0.006 mg) was stirred at room temperature for 45 minutes. The mixture was acidified by the addition of 1.0 M aqueous hydrochloric acid and purified by preparative reverse-phase HPLC using a gradient over 30 minutes of acetonitrile in water to afford title compound as an off-white solid, 0.025 g.

reactant | [4-difluoromethoxy-3-(4-ethanesulfonylbenzyl)-2-ethyl-8-fluoroquinolin-5-yloxy]acetic acid methyl ester | 0.080 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)CC)CC1=CC=C(C=C1)S(=O)(=O)CC)OC(F)F)=O | C24H24F3NO6S
reactant | methanol | 2.0 mL | CO | CH4O
reactant | lithium hydroxide | 0.006 mg | [OH-].[Li+]
reactant | hydrochloric acid | 1.0 M | Cl | ClH
solvent | water | 2.0 mL | O | H2O
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | [4-difluoromethoxy-3-(4-ethanesulfonylbenzyl)-2-ethyl-8-fluoroquinolin-5-yloxy]acetic Acid | FC(OC1=C(C(=NC2=C(C=CC(=C12)OCC(=O)O)F)CC)CC1=CC=C(C=C1)S(=O)(=O)CC)F | C23H22F3NO6S
